US08119633B2
2-(1-(3,4-Dichlorophenylsulfonyl)piperidin-2-yl)acetic acid S14
Lithium hydroxide (0.75 mg, 18 mmol) was added to a cooled solution of methyl 2-(1-(3,4-dichlorophenylsulfonyl)piperidin-2-yl)acetate (2.1 g, 6 mmol) in methanol (20 ml) and water (20 ml), and stirring was carried out for 16 h at room temperature (TLC monitoring). The solvent was removed using a rotary evaporator and the residue was taken up in water. The aqueous phase was washed with ethyl acetate and then acidified with 1 M HCl, and the product was extracted with ethyl acetate, and the organic phase was then washed with saturated NaCl solution. The organic phase was dried over sodium sulfate and concentrated to dryness. Yield: 2.9 g (98%)

reactant | Lithium hydroxide | 18 mmol, 0.75 mg | [OH-].[Li+]
reactant | methyl 2-(1-(3,4-dichlorophenylsulfonyl)piperidin-2-yl)acetate | 6 mmol, 2.1 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(CCCC1)CC(=O)OC | C14H17Cl2NO4S
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-(1-(3,4-Dichlorophenylsulfonyl)piperidin-2-yl)acetic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(CCCC1)CC(=O)O | C13H15Cl2NO4S
